US08357688B2
To a mixture of 90 mg of 1-cyclopentyl-8-methyl-4-oxo-4,5-dihydroimidazo[1,5-a]quinoxaline-7-carboxylic acid, 0.18 mL of diisopropylethylamine, and 5.4 mL of dichloromethane was added 162 mg of bromo(tripyrrolidin-1-yl)phosphonium hexafluorophosphate, followed by stirring at room temperature overnight. To the reaction liquid was added water, followed by extraction with chloroform. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and then the solvent was evaporated. The obtained residue was purified by silica gel column chromatography (chloroform/methanol=100/0 to 97/3). The obtained solid was heated and washed with 3 mL of ethyl acetate and 15 mL of normal hexane to obtain 183 mg of 1-cyclopentyl-7-(2,3-dihydro-1H-indol-1-ylcarbonyl)-8-methylimidazo[1,5-a]quinoxalin-4(5H)-one as a white solid.

reactant | 1-cyclopentyl-8-methyl-4-oxo-4,5-dihydroimidazo[1,5-a]quinoxaline-7-carboxylic acid | 90 mg | C1(CCCC1)C1=NC=C2N1C1=CC(=C(C=C1NC2=O)C(=O)O)C | C17H17N3O3
reactant | diisopropylethylamine | 0.18 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dichloromethane | 5.4 mL | ClCCl | CH2Cl2
reactant | bromo(tripyrrolidin-1-yl)phosphonium hexafluorophosphate | 162 mg | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
solvent | water | O | H2O
product | 1-cyclopentyl-7-(2,3-dihydro-1H-indol-1-ylcarbonyl)-8-methylimidazo[1,5-a]quinoxalin-4(5H)-one | 183 mg | C1(CCCC1)C1=NC=C2N1C1=CC(=C(C=C1NC2=O)C(=O)N2CCC1=CC=CC=C21)C | C25H24N4O2
